US09290485B2
c) Ethyl 1-((1-(2-methoxyethyl)-1,2,3,4-tetrahydroquinolin-7-yl)methyl)-1H-pyrazole-4-carboxylate
(1-(2-Methoxyethyl)-1,2,3,4-tetrahydroquinolin-7-yl)methanol (357 mg, 0.807 mmol) and ethyl 1H-pyrazole-4-carboxylate (113 mg, 0.807 mmol) were dissolved in THF (5 ml). Triphenylphosphine (317 mg, 1.210 mmol) was added, and, after cooling to 0° C., a 40% solution of DEAD in Toluene (0.479 ml, 1.210 mmol) was added dropwise. The reaction mixture was stirred for 2 hr at 0° C., then overnight at 20° C. The reaction mixture was diluted with AcOEt and washed with 1N HCl, and saturated aqueous NaHCO3. The organic layer was dried over MgSO4 and concentrated under reduced pressure. The crude product was purified by preparative-HPLC (Waters SunFire Prep C18 OBD 5 μm 19*50, Flow 20 mL/min, ACN: 2 min at 5%, then to 100% within 17.5 min, RT 11.80 min) to give the title compound. HPLC (Method A) Rt=2.001 min; MS (Method A) [M]+=343.9

reactant | (1-(2-Methoxyethyl)-1,2,3,4-tetrahydroquinolin-7-yl)methanol | 0.807 mmol, 357 mg | COCCN1CCCC2=CC=C(C=C12)CO | C13H19NO2
reactant | ethyl 1H-pyrazole-4-carboxylate | 0.807 mmol, 113 mg | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | Triphenylphosphine | 1.210 mmol, 317 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | Toluene | 1.210 mmol, 0.479 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | Ethyl 1-((1-(2-methoxyethyl)-1,2,3,4-tetrahydroquinolin-7-yl)methyl)-1H-pyrazole-4-carboxylate | COCCN1CCCC2=CC=C(C=C12)CN1N=CC(=C1)C(=O)OCC | C19H25N3O3
